US04798832
0.90 g (2.12 mmoles) of 9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidine-3carboxylic acid ethyl ester and 8 ml of 6N hydrochloric acid were added to 36 ml of acetic acid, and this mixture was heated at 80° C. for 8 hours with stirring. After cooling, the resulting reaction solution was concentrated under reduced pressure, followed by the addition of an appropriate amount of water. The solid matter which separated out was collected by filtration and washed with water. This precipitate was dried and then recrystallized from a mixture of tetrahydrofuran and methanol to obtain 0.42 g (50% yield) of 9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]-pyrimidine-3-carboxylic acid in the form of white crystals. These crystals had a melting point of 170°-172° C.

reactant | 9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidine-3carboxylic acid ethyl ester | 2.12 mmoles, 0.90 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2COC2=C(C(=C(C=C2)C(C)=O)O)CCC | C23H24N2O6
reactant | hydrochloric acid | 6N, 8 ml | Cl | ClH
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
product | 9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]-pyrimidine-3-carboxylic acid | 0.42 g, 50% yield | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)C(=O)O)C=C1)CCC)O | C21H20N2O6
